US06995162B2
N-[3-(1-Methylpiperidin-4-yl)-5-trifluoromethyl-phenyl]-acetamide was prepared from 1-methyl-4-methylene-piperidine and N-(3-bromo-5-trifluoromethyl-phenyl)-acetamide similar to that described in the preparation of N-[3-(3-piperidin-1-yl-propyl)-5-trifluoromethyl-phenyl]-acetamide.

reactant | 1-methyl-4-methylene-piperidine | CN1CCC(CC1)=C | C7H13N
reactant | N-(3-bromo-5-trifluoromethyl-phenyl)-acetamide | BrC=1C=C(C=C(C1)C(F)(F)F)NC(C)=O | C9H7BrF3NO
reactant | N-[3-(3-piperidin-1-yl-propyl)-5-trifluoromethyl-phenyl]-acetamide | N1(CCCCC1)CCCC=1C=C(C=C(C1)C(F)(F)F)NC(C)=O | C17H23F3N2O
product | N-[3-(1-Methylpiperidin-4-yl)-5-trifluoromethyl-phenyl]-acetamide | CN1CCC(CC1)C=1C=C(C=C(C1)C(F)(F)F)NC(C)=O | C15H19F3N2O
